US04319913
The procedure of Example 30 was employed utilizing N-isopropyl-N-benzylamine and isopropyl phosphonic dichloride. The reaction of the dilithio compound and the isopropyl phosphonic dichloride was conducted at -70° C. The crude product produced as a result of the chromatographic separation was distilled at 130° C. and 0.1 mm to yield a colorless oil. This oil was slurried in petroleum ether to yield 1,2-diisopropyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (2.28 g, 16% yield) as a pale yellow oil having the following analysis:

reactant | N-isopropyl-N-benzylamine | C(C)(C)NCC1=CC=CC=C1 | C10H15N
reactant | isopropyl phosphonic dichloride | C(C)(C)P(=O)(Cl)Cl | C3H7Cl2OP
product | 1,2-diisopropyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 2.28 g, 16% yield | C(C)(C)P1(N(CC2=C1C=CC=C2)C(C)C)=O | C13H20NOP
